US07279494B2
IV. (2E)-3-(4-{[(benzyloxy)carbonyl]amino}-2-fluorophenyl)prop-2-enyl diazoacetate
To a suspension of glyoxylic acid p-toluenesulfonylhydrazone (24 g, 0.10 mol, prepared as described by C. J. Blankley, F. J. Sauter and H. O. House, Organic Syntheses, Coll. Vol. V, p. 258; John Wiley, New York (1973)) in CH2Cl2 (600 mL) at 23° C. was added commercially available 1-chloro-N,N,2-trimethyl-1-propenylamine (15 mL, 0.114 mol, 1.14 equiv.) over 5 min. The reaction mixture was stirred at the same temperature for 40 min. The reaction mixture was then cooled to 0° C. and benzyl 3-fluoro-4-[(1E)-3-hydroxyprop-1-enyl]phenylcarbamate (23 g, 0.077 mol) was added in one portion followed by the addition of N,N-dimethylaniline (12 mL, 0.095 mol). After 30 minutes, triethylamine (53 mL, 0.385 mol) was added and the mixture stirred for 30 minutes at 0° C. and 15 minutes at room temperature. The reaction mixture was then concentrated to a volume of about 100 mL and 500 mL of water added. The mixture was extracted with two portions of diethyl ether and the combined organic solutions washed with saturated NaHCO3, brine, and dried (MgSO4), filtered and concentrated. Purification by column chromatography (0-25% ethyl acetate-hexane) provided the title compound as a yellow solid.

reactant | glyoxylic acid p-toluenesulfonylhydrazone | C1(=CC=C(C=C1)S(=O)(=O)NN=CC(=O)O)C | C9H10N2O4S
reactant | 1-chloro-N,N,2-trimethyl-1-propenylamine | 0.114 mol, 15 mL, 1.14 equiv. | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | benzyl 3-fluoro-4-[(1E)-3-hydroxyprop-1-enyl]phenylcarbamate | 0.077 mol, 23 g | FC=1C=C(C=CC1\C=C\CO)NC(OCC1=CC=CC=C1)=O | C17H16FNO3
reactant | N,N-dimethylaniline | 0.095 mol, 12 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | triethylamine | 0.385 mol, 53 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
product | (2E)-3-(4-{[(benzyloxy)carbonyl]amino}-2-fluorophenyl)prop-2-enyl diazoacetate | [N+](=[N-])=CC(=O)OC\C=C\C1=C(C=C(C=C1)NC(=O)OCC1=CC=CC=C1)F | C19H16FN3O4
